* HSPICE netlist for testing mixed current sources

.TRAN 0.001ms 0.5ms
.PRINT TRAN V(1) V(2) I(R2)

IRAMP 1 0 EXP 0A 0.2A 2us 20us 40us 60us
R1 1 2 100
R2 2 0 75

.END
